US05212187
N-[5-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]pentyl]-N'-cyano-N"-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]guanidine
Preparation is effected analogously to Example 1, using 0.75 g (2.1 mmol) of N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,5-pentanediamine and 0.81 g (2.1 mmol) of N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-O-phenyl-isourea as starting materials. Working up by chromatography analogously to Example 1 yields the purified title compound in the form of a dry foam; MS (+FAB method): m/z (rel. int.[%])=627 ([M+H]+, 3), 230 (100); IR (KBr): 2162 cm-1 (C≡N). For analytical purposes a sample is converted into the maleic acid salt and recrystallised from ether/ethanol; m.p.: 87°-90° C.

reactant | N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,5-pentanediamine | 2.1 mmol, 0.75 g | ClC1=CC=C(C=C1)C(CCN(CCCCCN)C)C1=NC=CC=C1 | C20H28ClN3
reactant | N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-O-phenyl-isourea | 2.1 mmol, 0.81 g | C(#N)NC(OC1=CC=CC=C1)=NCCSCC=1N=C(SC1)NC(=N)N | C15H17N7OS2
product | N-[5-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]pentyl]-N'-cyano-N"-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]guanidine | ClC1=CC=C(C=C1)C(CCN(C)CCCCCNC(=NCCSCC=1N=C(SC1)NC(=N)N)NC#N)C1=NC=CC=C1 | C29H39ClN10S2
